US04563449
To a solution of methyl 2-allyloxyimino-2-(5-dichlorophosphorylamino-1,2,4-thiadiazol-3-yl)acetate (syn isomer) (5.0 g) in methylene chloride (100 ml) were successively added pyridine (3.3 g) and a solution of ethanol in methylene chloride (100 ml) under cooling at -35° C. to -25° C. and stirring. The mixture was stirred for 20 minutes at -20° to -10° C., for 30 minutes at 5° C. and then for two hours at room temperature, and poured into water (100 ml). The organic layer was separated, washed with 1N aqueous hydrochloric acid and a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated to dryness under reduced pressure to give methyl 2-allyloxyimino-2-(5-diethoxyphosphorylamino-1,2,4-thiadiazol-3-yl)acetate (syn isomer) (5.25 g) as yellow oil.

reactant | methyl 2-allyloxyimino-2-(5-dichlorophosphorylamino-1,2,4-thiadiazol-3-yl)acetate | 5.0 g | C(C=C)ON=C(C(=O)OC)C1=NSC(=N1)NP(=O)(Cl)Cl | C8H9Cl2N4O4PS
reactant | pyridine | 3.3 g | N1=CC=CC=C1 | C5H5N
reactant | ethanol | C(C)O | C2H6O
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | methyl 2-allyloxyimino-2-(5-diethoxyphosphorylamino-1,2,4-thiadiazol-3-yl)acetate | 5.25 g | C(C=C)ON=C(C(=O)OC)C1=NSC(=N1)NP(=O)(OCC)OCC | C12H19N4O6PS
